US06143764
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N'-(4-methoxyphenyl)urea [99]
6,7-Dimethoxy-4-(4-aminophenoxy)quinazoline (81 mg) was dissolved in toluene (5 ml) with heat, 4-methoxyphenyl isocyanate (0.29 ml) was added, and the admixture was refluxed with heat for 40 minutes. The separated solid was filtered and washed with toluene to obtain 60 mg of the title compound (yield: 49%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinazoline | 81 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)N | C16H15N3O3
reactant | 4-methoxyphenyl isocyanate | 0.29 ml | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N'-(4-methoxyphenyl)urea | 60 mg, yield: 49% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC | C24H22N4O5
